US07208513B2
B. 3-{3-[N-(2-piperidylethyl)carbamoyl]phenyl}-1H-indazole-5-carboxamide
The title compound was prepared as described in Example 381 E, using methyl 3-(5-carbamoyl-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)benzoate (0.297 g, 0.78 mmol) and lithium hydroxide (0.102 g, 2.43 mmol) in tetrahydrofuran (2.5 mL) and water (2 mL); 1-hydroxy-7-azabenzotriazole (0.325 g, 2.39 mmol), 1-(2-aminoethyl)piperidine (0.335 mL, 2.39 mmol), 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.452 g, 2.35 mmol), and additional tetrahydrofuran (2 mL); 4 N hydrochloride solution in dioxane (10 mL). The final crude product was purified by preparative HPLC (5–40% acetonitrile to H2O, 30 min.) (0.025 g, 8% yield over 3 steps): 1H NMR (CD3OD) δ 8.71 (s, 1H), 8.47 (t, 1H), 8.19 (dt, 1H), 8.01 (dd, 1H), 7.91 (dt, 1H), 7.66 (t, 2H), 3.62 (t, 2H), 2.65 (t, 2H), 2.57 (br s, 4H), 1.65 (m, 4H), 1.51 (d, 2H); ES-MS (m/z) 392.4 [M+1]+.

reactant | methyl 3-(5-carbamoyl-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)benzoate | 0.78 mmol, 0.297 g | C(N)(=O)C=1C=C2C(=NN(C2=CC1)C1OCCCC1)C=1C=C(C(=O)OC)C=CC1 | C21H21N3O4
reactant | lithium hydroxide | 2.43 mmol, 0.102 g | [OH-].[Li+]
reactant | 1-hydroxy-7-azabenzotriazole | 2.39 mmol, 0.325 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-(2-aminoethyl)piperidine | 2.39 mmol, 0.335 mL | NCCN1CCCCC1 | C7H16N2
reactant | 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.35 mmol, 0.452 g | Cl.C(C)N=C=NCCCN(C)C
reactant | hydrochloride | 4 N | Cl | ClH
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-{3-[N-(2-piperidylethyl)carbamoyl]phenyl}-1H-indazole-5-carboxamide | 8% yield | N1C(CCCC1)CCNC(=O)C=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)N | C22H25N5O2
